Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Cough, weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of tobacco abuse with recent 
diagnosis of right middle lobe pneumonia on ___, presenting 
due to worsening cough and weakness.  
 She noted having upper respiratory tract symptoms started 3 
weeks ago. Initially she developed rhinorrhea, without sore 
throat or cough. The next week, she developed water red left eye 
which was not itchy. During the third week of the illness, she 
noted that her sinus congestion improved, however, she developed 
body aches associated with productive cough with yellow/green 
sputum. This was associated with weakness in her bilateral legs. 
The weakness in her bilateral lower extremities has persisted 
for the past week limiting her ability to stand up from a seated 
position. She also described her lower extremity weakness as 
feeling as though she was paralyzed.  
 She presented to outpatient clinic on ___. A CXR was obtained 
which showed "right middle lobe pneumonia and lower lobe volume 
loss could be due to bronchial compromise. Small peripheral 
right upper lobe pneumonia, pulmonary infarction or mass."  
 During that visit, labs were notable for Na 129, chloride 89. 
TSH 0.55.  
 She was started on levofloxacin 500 mg PO daily as an 
outpatient, however, has continued to have weakness. She was 
encouraged to drink fluids and stay well hydrated. She notes 
drinking an extremely large volume of fluids with worsening of 
her weakness. She has had very little food over the past several 
days.  
 
 In the ED, initial vitals were: 99.2, 91, 171/77, 18, 96% on 
RA.  
 Labs were notable for WBC 11.1, platelets 543.  
 Lactate 1.1.  
 In the ED, patient received 1L normal saline, 500 mg 
azithromycin.  
 Patient was sent to the floor with labs pending. When patient 
arrived to floor, received a call from ED which indicated her 
sodium was 116. Urine lytes were obtained which showed a urine 
Na<20 and osmol of 182.  
 On the floor, patient continues to feel fatigued and weak. She 
feels as though she cannot get up from a seated position. Denies 
any confusion and is alert and oriented x 3.  
 Review of systems: Please see HPI.  

 
Past Medical History:
Tobacco abuse
 
Social History:
___
Family History:
Mother: Type ___ DM, HTN, COPD, Dementia, CHF, Macular 
degeneration.  
 Father: ___, peripheral vascular disease.  
 Brother: ___.  
 MGM deceased after ?throat versus thyroid cancer.  
 PGM deceased in ___, myocardial infarction.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs: 97.4, 150/64, 84, 18, 93% on RA.  
 General: Thin appearing, fatigued appearing, sitting in chair, 
alert and oriented x 3.  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
JVP not elevated. evidence of possible leukoplakia on tongue.  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Right lower/middle lobe crackles appreciated, no 
wheezes, rales, rhonchi  
 Abdomen: soft, non-tender, non-distended, no rebound or 
guarding, normoactive bowel sounds.  
 Ext: warm, well perfused, no lower extremity edema.  
 Neuro: CNII-XII intact, ___ strength in upper extremities, ___ 
strength in lower extremities bilaterally, especially with 
flexion extension at the hips.  

DISCHARGE PHYSICAL EXAM
Vital Signs: 98.4 ___ 18 91-93RA
General: Thin appearing, fatigued appearing, sitting in chair, 
alert and oriented x 3.  
HEENT: Sclerae anicteric, MMM, oropharynx clear. Leukoplakia on 
tongue. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Right lower/middle lobe crackles appreciated, no wheezes, 
rales, rhonchi  
Abdomen: soft, non-tender, non-distended, no rebound or 
guarding, normoactive bowel sounds.  
Ext: warm, well perfused, no lower extremity edema.  
Neuro: CNII-XII intact, ___ strength in upper extremities, ___ 
strength in lower extremities bilaterally, especially with 
flexion at the hips.

 
Pertinent Results:
ADMISSION LABS
---------------
___ 08:20PM BLOOD WBC-11.1* RBC-6.09* Hgb-12.2 Hct-37.7 
MCV-62* MCH-20.0* MCHC-32.4 RDW-17.2* RDWSD-32.0* Plt ___
___ 08:20PM BLOOD Neuts-79.3* Lymphs-10.9* Monos-7.0 
Eos-1.5 Baso-0.5 Im ___ AbsNeut-8.77* AbsLymp-1.21 
AbsMono-0.77 AbsEos-0.17 AbsBaso-0.06
___ 08:20PM BLOOD Glucose-99 UreaN-3* Creat-0.3* Na-116* 
K-4.0 Cl-80* HCO3-21* AnGap-19
___ 08:20PM BLOOD CK(CPK)-379*
___ 08:20PM BLOOD TotProt-6.5
___ 08:20PM BLOOD Osmolal-242*
___ 08:21PM BLOOD Lactate-1.1
___ 10:25PM URINE Color-Straw Appear-Clear Sp ___
___ 10:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:25PM URINE Hours-RANDOM UreaN-152 Creat-35 Na-<20 
K-25 Cl-20
___ 10:25PM URINE Osmolal-182
___ 10:25PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING
-------
CXR ___: 1. Right middle lobe pneumonia and lower lobe 
volume loss could be due to 
bronchial compromise. Small, peripheral right upper lobe 
pneumonia, pulmonary 
infarction, or mass.  If clinical findings fit pneumonia, 
followup chest 
radiographs should be obtained in six weeks, sooner if patient 
does not 
improve.  If malignancy is suspected instead, Chest CT (with 
contrast, if 
tolerated) is indicated, or CTA for possible pulmonary embolism. 

2. Moderate overinflation of the left lung without focal 
consolidation. 

CXR ___: Subtly increased opacity throughout the right 
middle lobe suggests pneumonia. 
  
Wedge-shaped peripheral opacity involving the lateral inferior 
right upper 
lobe is overall similar in size and appearance from the prior 
study.  
Follow-up chest radiographs could be obtained in 6 weeks.   If 
malignancy is 
suspected instead, Chest CT (with contrast, if tolerated) is 
indicated, or CTA 
for possible pulmonary embolism. 

MICROBIOLOGY
------------
___ 10:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE/INTERVAL LABS
___ 07:20AM BLOOD WBC-7.3 RBC-5.98* Hgb-12.1 Hct-38.2 
MCV-64* MCH-20.2* MCHC-31.7* RDW-18.1* RDWSD-34.7* Plt ___
___ 07:20AM BLOOD Glucose-97 UreaN-5* Creat-0.3* Na-128* 
K-3.6 Cl-87* HCO3-23 AnGap-22*
___ 07:20AM BLOOD Calcium-9.1 Phos-2.7 Mg-2.4
___ 03:24PM BLOOD Glucose-98 UreaN-6 Creat-0.3* Na-127* 
K-3.4 Cl-88* HCO3-24 AnGap-___ y/o F with history of tobacco abuse with recent diagnosis of 
right middle lobe pneumonia on ___, presenting due to 
worsening cough and weakness, found to have hyponatremia with Na 
116. 

# Symptomatic Hyponatremia: Patient presented with 1 week 
history of weakness associated with her pneumonia. Na on ___ 
was 129 in clinic, however, patient notes drinking large volume 
of water over the past 2 days as she was told to for her 
pneumonia. Labs on admission were consistent with primary 
polydipsia. Na on presentation was found to be 116 and improved 
to 127 on discharge over the course of 2 days. Of note, she had 
profound proximal lower extremity weakness on admission which 
had improved by discharge and after working with physical 
therapy was cleared to safely go home. She did not have any 
other focal neurologic deficits and was fully alert and 
oriented. She was fluid restricted to 1 L while hospitalized and 
had adequate food intake. 

# Community Acquired Pneumonia: Given consolidation seen in the 
right middle lobe on CXR, patient was initially treated with 
levofloxacin x 2 days in the outpatient setting. CXR on ___ 
shows subtly increased opacity throughout the right middle lobe 
suggesting pneumonia. She received ceftriaxone and azithromycin 
for two days and will be discharged on Cefpodoxime and 
azithromycin for a total 7 day course (end date: ___.

# Leukoplakia: Given appearance on exam and smoking history, 
would recommend evaluation by oral surgeon. Patient is hesitant 
to have additional workup at this time but has been advised to 
see an oral surgeon after discharge.

# TRANSITIONAL ISSUES: 
=======================
[] Na on discharge was 127
[] CXR showing wedge-shaped peripheral opacity involving the 
lateral inferior right upper lobe that is overall similar in 
size and appearance from the prior study. Advise repeat CXR in 6 
weeks to evaluate for improvement in consolidation.
[] Advise age-appropriate malignancy screening given smoking 
history starting with CT chest in next month. Level of 
hyponatremia is concerning for process beyond poor solute 
intake, but may be related to pneumonia. However, given smoking 
history would recommend CT chest for screening
[] Given leukoplakia, seen on exam, advise follow-up with oral 
surgeon 
# CONTACT INFORMATION: Husband- ___
# CODE STATUS: Full Code (confirmed)
 
Medications on Admission:
None
 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H 
RX *azithromycin [Zithromax] 250 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Hyponatremia secondary to poor food intake and possible primary 
polydipsia
Weakness
Community acquired pneumonia

Secondary diagnoses: 
Leukoplakia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ out of concern for a low sodium 
level and muscle weakness in your legs. These findings are 
thought to be related to your pneumonia. Your sodium and muscle 
weakness improved during your hospital stay. You should be sure 
to eat adequately, and avoid taking in excessive water. 

Please continue to take antibiotics for your pneumonia for three 
more days. 

It is important that you see your PCP ___ 1 week. Please call Dr. 
___ at ___ to arrange an appointment.

It was a pleasure taking care of you! We wish you the best!

Merry Christmas!

Your ___ Team
 
Followup Instructions:
___